US04236032
Run B of Example 1 is repeated except that 3-cresol is substituted for the cresylic acid mixture. The process results in a selectivity of better than 95 percent of 6-t-butyl-3-cresol.

reactant | 3-cresol | C1=C(C=CC=C1O)C | C7H8O
reactant | cresylic acid | CC1=CC=CC=C1O | C7H8O
product | 6-t-butyl-3-cresol | 95 percent | C(C)(C)(C)C=1C=CC(=CC1O)C | C11H16O
